Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2](=[O:3])[C:11]([C:7]([C:4]([H:5])[H:6])=[C:8]([H:9])[H:10])([H:12])[H:13]>>[H:1][C:2]1[O:3][C:4]([H:5])([H:6])[C:7](=[C:8]([H:9])[H:10])[C:11]1([H:12])[H:13],0.3313233580199999
[H:1]/[C:2]([C:3]([H:4])([H:5])[H:6])=[C:12](/[H:13])[C:15]([C:7]([H:8])([C:9]([H:10])[H:11])[H:14])([H:16])[H:17]>>[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]1([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[C:15]1([H:16])[H:17],-0.0679709897495
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7].[O:8]=[C:9]([H:10])[H:11]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7][O:8][C:9]([H:10])[H:11],-1.68385958332
[H:1][C:2]1[O:3][O:4][C@:5]1([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2](=[O:3])[C@@:5]([O:4])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-2.72580045872
[H:1][C:2]=[C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18].[H:3]>>[H:1][C:2]([H:3])=[C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18],-4.9996611848
[H:1][C:2]([O:3][O:4])=[C:5]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]1[O:3][O:4][C:5]1([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],0.7380275268500001
[H:1][O:2][C:3][O:4]/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])[H:11]>>[C:9]([H:10])[H:11].[H:1][O:2][C:3][O:4][C:5]([H:6])=[C:7][H:8],5.82698913123
[H:1][C:2]#[C:3][O:5]/[C:6]=[C:7](\[H:8])[C:9]([H:10])([H:11])[H:12].[H:4]>>[H:1][C:2]=[C:3]([H:4])[O:5]/[C:6]=[C:7](\[H:8])[C:9]([H:10])([H:11])[H:12],-2.31476751313
[C:4]([H:5])#[C:6][C:7]([H:8])([H:9])[H:10].[H:1][C:2]#[C:3][C:11]([H:12])([H:13])[H:14]>>[H:1][C:2]=[C:3](/[C:4]([H:5])=[C:6]/[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],1.11720364354
[H:1][c:2]1[c:3][o:4][c:5]([H:6])[c:7]1[H:8]>>[H:1][C:2]#[C:3][O:4][C:5]([H:6])=[C:7][H:8],2.59339767356
[C:2]([H:3])=[C:4]1[C:5]([H:6])=[C:7]([H:8])[C:9]1([H:10])[H:11].[O:1]>>[O:1]=[C:2]([H:3])[C:4]1[C:5]([H:6])=[C:7]([H:8])[C:9]1([H:10])[H:11],-6.06236014732
[C:13]([H:14])([H:15])[H:16].[H:1][O:2][C@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[O:12]>>[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[O:12][C:13]([H:14])([H:15])[H:16],-3.69681748815
[C:1]/[C:2]([H:3])=[C:4](\[O:5][H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[C:1].[C:2]([H:3])=[C:4]([O:5][H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],5.11313228499
[C:5]#[C:6][C:7]([H:8])([H:9])[H:10].[H:1][O:2][C:3]#[C:4]>>[H:1][O:2][C:3]#[C:4][C:5]#[C:6][C:7]([H:8])([H:9])[H:10],-7.06773894505
[H:1][C:2][C@:3]1([H:4])[C:5]([H:6])([H:7])[C@@:8]1([H:9])[C:10]#[C:11][H:12]>>[H:1][C:2]=[C:3]([H:4])[C@@:8]([C:5]([H:6])[H:7])([H:9])[C:10]#[C:11][H:12],0.33099299551
[H:11].[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C@:8]([H:9])([O:10])[C:12]([H:13])([H:14])[H:15]>>[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C@@:8]([H:9])([O:10][H:11])[C:12]([H:13])([H:14])[H:15],-4.686136869119999
[H:1][C:2]([C:3](=[C:4]=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:3]=[C:8]([H:9])[H:10].[H:1]/[C:2](=[C:4]\[C:5]([H:6])([H:7])[H:11])[C:12]([H:13])([H:14])[H:15],4.51016625019
[H:4].[O:1]=[C:2]([H:3])[C@@:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[O:14][H:15]>>[O:1][C:2]([H:3])([H:4])[C@:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[O:14][H:15],-1.06322588392
[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][C:12]([H:13])[H:14]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:8]([H:9])([H:10])[O:11][C:12]([H:13])[H:14].[H:7],1.84745645311
[H:10].[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8](=[C:9])[O:11][H:12]>>[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8](=[C:9][H:10])[O:11][H:12],-4.27400587947
[C:6]([H:7])([H:8])[H:9].[O:1][O:2][C:3]#[C:4][H:5]>>[O:1][O:2][C:3][C:4]([H:5])[C:6]([H:7])([H:8])[H:9],-2.8198882113300003
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8][O:9][H:10]>>[H:1][C:2]#[C:3][C:5]([H:6])([H:7])[C:8][O:9][H:10].[H:4],1.84226095053
[O:1]=[C:2]([H:3])[O:4]/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])[H:11]>>[C:9]([H:10])[H:11].[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])=[C:7][H:8],6.58151390429
[H:9].[O:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]=[C:10]([H:11])[H:12]>>[O:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12],-4.85648896638
[H:1][C:2]([O:3]/[C:4]([H:5])=[C:7](\[H:8])[C:12]([H:13])([H:14])[H:15])([H:6])[C:10]([H:9])[H:11]>>[H:1][C:2]1[O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C@@:10]1([H:11])[C:12]([H:13])([H:14])[H:15],-1.13415849156
[H:1][O:2][C:3]([H:4])([H:5])[C:6]=[C:8]([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[H:7]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])=[C:8]([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-4.92811505102
[C:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[H:12]>>[C:1]=[O:2].[C:3]([H:4])=[C:5]([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[H:12],-1.09527145692
